US06919338B2
N-(4-fluoro-3-chlorophenyl)-2-(2-amino-1,3-thiazole-5-yl)acetamide
N-(4-fluoro-3-chlorophenyl)-2-(2-tritylamino-1,3-thiazole-5-yl)acetamide (12.28 g, 23 mmol) was dissolved in TFA (100 ml) and water (10 ml). The mixture was stirred at room temperature for 45 minutes. Water (300 ml) was added to the reaction mixture, a solid was recovered by filtration, washed with water and ether. The solid was dissolved in MeOH, and the solution treated with ammonia (pH 8), MeOH was then partially evaporated, water (300 ml) was added and a precipitate of title compound recovered, dried (5.37 g, 81%).

reactant | N-(4-fluoro-3-chlorophenyl)-2-(2-tritylamino-1,3-thiazole-5-yl)acetamide | 23 mmol, 12.28 g | FC1=C(C=C(C=C1)NC(CC1=CN=C(S1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)Cl | C30H23ClFN3OS
solvent | TFA | 100 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | 10 ml | O | H2O
solvent | Water | 300 ml | O | H2O
product | N-(4-fluoro-3-chlorophenyl)-2-(2-amino-1,3-thiazole-5-yl)acetamide | FC1=C(C=C(C=C1)NC(CC1=CN=C(S1)N)=O)Cl | C11H9ClFN3OS
